US07674809B2
14a) 2-(2-pyridyl)-5-aminobenzothiazole
PPA (500 g) is added to picolinic acid (24.6 g, 0.2 mol) and sodium 2-amino-4-nitrothiophenoxide (47 g, 0.2 mol). The mixture is heated at 120-130° C. for 6 hours. The resulting mixture is cooled and NaOH is added dropwise (pH=10). The product is filtered off and washed with water. The 2-(2-pyridyl)-5-nitrobenzothiazole is recrystallized from 9/1 isopropyl ether/methanol and is added to a solution of tin dichloride (61.6 g, 0.273 mol) in conc. HCl (50 ml) at 0° C. This mixture is heated at 95° C. for 120 minutes. It is cooled and NaOH is added dropwise (pH=10). The resulting mixture is extracted with chloroform and the combined organic phases are extracted with 0.5M HCl. The acidic aqueous phases are combined, basified with NaOH (pH=10) and extracted with ethyl acetate. The extracts are washed with water and evaporated. The solid obtained is recrystallized from isopropyl ether. Yield: 3.6 g; Rf (9/1 chloroform/methanol): 0.45; IR (KBr): 3400, 3325, 3215, 1590, 1430, 1320, 780 cm−1.

reactant | picolinic acid | 0.2 mol, 24.6 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | sodium 2-amino-4-nitrothiophenoxide | 0.2 mol, 47 g | NC1=C([S-])C=CC(=C1)[N+](=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | tin dichloride | 0.273 mol, 61.6 g | [Sn](Cl)Cl
solvent | HCl | 50 ml | Cl | ClH
product | 2-(2-pyridyl)-5-aminobenzothiazole | N1=C(C=CC=C1)C=1SC2=C(N1)C=C(C=C2)N | C12H9N3S
